US07465815B2
3-(4-Isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-1-benzofuran
A mixed solution of the mixture of 1-(2-isopropyl-6-methoxyphenyl)-2-(2,3,5-trimethylphenoxy)ethanone and 1-(4-isopropyl-2-methoxyphenyl)-2-(2,3,5-trimethylphenoxy)ethanone obtained in Reference Example 171 (6.27 g, 19.2 mmol) and Montmorillonite KSF (9.40 g) in toluene (100 mL) was stirred under argon atmosphere at 90° C. for 5 hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:hexane=15:85) to obtain 2.34 g (yield 40%) of the title compound. Oily matter.

reactant | 1-(2-isopropyl-6-methoxyphenyl)-2-(2,3,5-trimethylphenoxy)ethanone | C(C)(C)C1=C(C(=CC=C1)OC)C(COC1=C(C(=CC(=C1)C)C)C)=O | C21H26O3
reactant | 1-(4-isopropyl-2-methoxyphenyl)-2-(2,3,5-trimethylphenoxy)ethanone | C(C)(C)C1=CC(=C(C=C1)C(COC1=C(C(=CC(=C1)C)C)C)=O)OC | C21H26O3
reactant | Montmorillonite KSF | 9.40 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-1-benzofuran | 2.34 g, yield 40% | C(C)(C)C1=CC(=C(C=C1)C1=COC2=C1C(=CC(=C2C)C)C)OC | C21H24O2
